US05459137
1-(4-Phenylcarbamoylaminophenyl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine
0.22 ml (2.04 mmol) of phenyl isocyanate was added to a solution of 0.50 g (1.7 mmol) of 1-(4-aminophenyl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine in 4 ml of dimethylformamide and the reaction mixture was stirred at 25° C. for one hour. Then it was diluted with 20 ml of diethyl ether and filtered at 5° C. The crystals were washed with 2×5 ml of diethyl ether and dried at 60°-100° C. The resulting 0.70 g of raw product, m.p. 239°-240° C. (sintering at 180° C.) was refluxed in 15 ml of ethanol, filtered after cooling, washed wtih 3×1 ml of ethanol and dried at 100° C. to yield 0.55 g (78.6%) of the aimed product, m.p. 240°-241° C. (decomp.).

reactant | phenyl isocyanate | 2.04 mmol, 0.22 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 1-(4-aminophenyl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine | 1.7 mmol, 0.50 g | NC1=CC=C(C=C1)C1=NN=C(CC2=C1C=C1C(=C2)OCO1)C | C17H15N3O2
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | 1-(4-Phenylcarbamoylaminophenyl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine | 0.55 g, 78.6% | C1(=CC=CC=C1)NC(=O)NC1=CC=C(C=C1)C1=NN=C(CC2=C1C=C1C(=C2)OCO1)C | C24H20N4O3
